US05714497
b) 3-[N-(tert-butoxycarbonyl)piperidin-4-yl]propanol
A solution of 6 g of di(tert-butyl)carbonate in 20 ml of dioxan was introduced into a solution of 3.2 g of 3-(4-piperidinyl)propanol in 50 ml of dioxan containing 25 ml of a 2N aqueous solution of sodium hydroxide, cooled at 0° C. The mixture was allowed to react for 16 hours at room temperature. The solution was then evaporated and the residue was extracted with ethylether. The organic layer was washed with a 10% solution of KHSO4 and then dried over MgSO4.

reactant | di(tert-butyl)carbonate | 6 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | 3-(4-piperidinyl)propanol | 3.2 g | N1CCC(CC1)CCCO | C8H17NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-[N-(tert-butoxycarbonyl)piperidin-4-yl]propanol | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCO | C13H25NO3
